US07740906B2
Preparation of the Wood Treatment Solution from DCOIT/Dowanol DPM:
In the DOWANOL PPH preparation above, substitute 18 g of 25% DCOIT in DOWANOL DPM (final concentration of 1500 ppm DCOIT) stirring as directed.

reactant | DOWANOL | CCCCOCCO | C6H14O2
reactant | DCOIT | 18 g | CCCCCCCCN1C(=O)C(=C(S1)Cl)Cl | C11H17Cl2NOS
reactant | DOWANOL DPM | CC(CO)OCC(C)OC | C7H16O3
product | DCOIT Dowanol DPM | CCCCCCCCN1C(=O)C(=C(S1)Cl)Cl.CC(CO)OCC(C)OC | InChI=1S/C11H17Cl2NOS.C7H16O3/c1-2-3-4-5-6-7-8-14-11(15)9(12)10(13)16-14;1-6(4-8)10-5-7(2)9-3/h2-8H2,1H3;6-8H,4-5H2,1-3H3
